US06348474B1
1-((tert-Butyldiphenylsilyloxy)methyl)-2-chloro-4-(cyclohexylmethyl)benzene
In the same manner as in Preparation Example 70-2, the objective compound (797 mg, 56%) was obtained as a colorless oil from 4-bromo-1-((tert-butyldiphenylsilyloxy)methyl)-2-chlorobenzene and cyclohexylmethyl iodide.

reactant | 4-bromo-1-((tert-butyldiphenylsilyloxy)methyl)-2-chlorobenzene | BrC1=CC(=C(C=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C23H24BrClOSi
reactant | cyclohexylmethyl iodide | C1(CCCCC1)CI | C7H13I
product | 1-((tert-Butyldiphenylsilyloxy)methyl)-2-chloro-4-(cyclohexylmethyl)benzene | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=C(C=C1)CC1CCCCC1)Cl | C30H37ClOSi
